US05171860
Step B 3-Ethoxy-4-amino-5-methylsulfonylisothiazole-1,1-dioxide
To a solution of 3-ethoxy-4-chloro-5-methylsulfonylisothiazole-1,1-dioxide (1.1 g, 4.0 mmol) in acetonitrile (15 ml) under a nitrogen atmosphere was added hexamethyldisilizane (0.85 ml, 4.0 mmol). After an immediate exothermic reaction, the solution was heated at gentle reflux for 1 hour. Upon cooling to room temperature, methanol (1.0 ml) was added and any solid removed by filtration. The organic solution was evaporated and the solid residue triturated with ethyl acetate/methanol to give crystalline title compound (0.81 g), mp 214°-217°.

reactant | 3-ethoxy-4-chloro-5-methylsulfonylisothiazole-1,1-dioxide | 4.0 mmol, 1.1 g | C(C)OC1=NS(C(=C1Cl)S(=O)(=O)C)(=O)=O | C6H8ClNO5S2
reactant | hexamethyldisilizane | 4.0 mmol, 0.85 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | methanol | 1.0 ml | CO | CH4O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-Ethoxy-4-amino-5-methylsulfonylisothiazole-1,1-dioxide | 0.81 g | C(C)OC1=NS(C(=C1N)S(=O)(=O)C)(=O)=O | C6H10N2O5S2
